US05990116
6-[2-(5-Hydroxy-2-methoxyphenyl)ethyl]-3H-quinazolin-4-one (process e)
90 mg of 6-[2-(5-hydroxy-2-methoxyphenyl)ethyl]-4-methoxyquinazoline are dissolved in 8 ml of methanol and treated with 1 ml of 4 N aqueous hydrochloric acid. The mixture is stirred for 16 hours at room temperature, then poured onto 2 M aqueous pH 7 buffer and extracted with ethyl acetate. The combined organic extracts are dried over magnesium sulfate and evaporated in vacuo. The residue is chromatographed on silica gel (dichloromethane/methanol=9/1) to yield the title compound as colourless crystals. mp: 221-224°.

reactant | 6-[2-(5-hydroxy-2-methoxyphenyl)ethyl]-4-methoxyquinazoline | 90 mg | OC=1C=CC(=C(C1)CCC=1C=C2C(=NC=NC2=CC1)OC)OC | C18H18N2O3
reactant | hydrochloric acid | 4 N, 1 ml | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
product | 6-[2-(5-Hydroxy-2-methoxyphenyl)ethyl]-3H-quinazolin-4-one | OC=1C=CC(=C(C1)CCC=1C=C2C(NC=NC2=CC1)=O)OC | C17H16N2O3
